US04278806
Preparation of E-7-Chloro-4-trimethylsilyloxy-4-vinyl-1-tri-n-butylstannyl-1-heptene
A mixture of 7-chloro-4-trimethylsilyloxy-4-vinyl-1-heptyne (17 g, 0.07 mol) and 20.7 g (0.71 mol) of tri-n-butylstannane and 150 mg of azobisisobutrylnitrile (AIBN) is stirred under argon in a 140° oil bath behind a safety shield. After 3 minutes an exotherm occurs and the mixture is maintained at 140° C. for 1.5 hr. After cooling, air is admitted and the unreacted tri-n-butylstannane is removed by distillation via Kuglerohr (140°, 0.5-0.3 mm) to give a very light yellow oil (30 g). This oil consists of a mixture of the E and Z isomers.

reactant | 7-chloro-4-trimethylsilyloxy-4-vinyl-1-heptyne | 0.07 mol, 17 g | ClCCCC(CC#C)(C=C)O[Si](C)(C)C | C12H21ClOSi
reactant | tri-n-butylstannane | 0.71 mol, 20.7 g | C(CCC)[SnH](CCCC)CCCC
product | E-7-Chloro-4-trimethylsilyloxy-4-vinyl-1-tri-n-butylstannyl-1-heptene | 30 g | ClCCCC(C/C=C/[Sn](CCCC)(CCCC)CCCC)(C=C)O[Si](C)(C)C | InChI=1S/C12H22ClOSi.3C4H9.Sn/c1-6-9-12(7-2,10-8-11-13)14-15(3,4)5;3*1-3-4-2;/h1,6-7H,2,8-11H2,3-5H3;3*1,3-4H2,2H3;
